US03991202
A mixture of 4.2 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole, 2.7 parts of 2,4-dichlorocinnamylchloride and 40 parts of acetonitrile is stirred and refluxed overnight. Upon the addition of diisopropyl ether, the product crystallizes. It is filtered off and dried, yielding 5.8 parts of 1-(2,4-dichlorocinnamyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazolium chloride; mp. 142.2° C.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | 2,4-dichlorocinnamylchloride | ClC1=C(C=CCCl)C=CC(=C1)Cl | C9H7Cl3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2,4-dichlorocinnamyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazolium chloride | [Cl-].ClC1=C(C=CC[N+]2=CN(C=C2)CC(C2=C(C=C(C=C2)Cl)Cl)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C27H21Cl6N2O.ClH/c28-20-5-3-18(24(31)12-20)2-1-9-34-10-11-35(17-34)15-27(23-8-7-22(30)14-26(23)33)36-16-19-4-6-21(29)13-25(19)32;/h1-8,10-14,17,27H,9,15-16H2;1H/q+1;/p-1
